US06130187
Preparation of 3-(4-chloro-2-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil
41.0 g (122.5 mmol) of 3-(4-chloro-2-methoxyphenyl)-1-methyl-6-trifluoromethyluracil was dissolved in 1000 ml of dichloromethane, and 470 ml (470.8 mmol) of boron tribromide (1.0M dichloromethane solution) was dropwise added at from -10° C. to -5° C. After stirring at room temperature for 3 hours, the reaction solution was poured into ice water and neutralized with sodium hydrogencarbonate. It was extracted with dichloromethane. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained crude crystals were washed with isopropyl ether to obtain 27.6 g (yield: 70.3%) of the desired product as white crystals. Melting point: 198-202° C.

reactant | 3-(4-chloro-2-methoxyphenyl)-1-methyl-6-trifluoromethyluracil | 122.5 mmol, 41.0 g | ClC1=CC(=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)OC | C13H10ClF3N2O3
reactant | boron tribromide | 470.8 mmol, 1.0M, 470 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 3-(4-chloro-2-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil | 27.6 g, yield: 70.3% | ClC1=CC(=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H8ClF3N2O3
